US08084485B2
To a solution of (4S,5S)-tert-butyl 5-((2,2-dimethylhexanamido)methyl)-4-((S)-2-(hydroxy(1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate (32 mg, 0.05 mmol) in Ac2O (6 mL) was added pyridine (0.5 mL) dropwise. The reaction mixture was stirred at rt overnight. Satd aq NH4Cl (10 mL) was added and the mixture was extracted with EtOAc (3×15 mL). The combined organic extracts were washed with brine, dried over Na2SO4 and evaporated. The residue was purified by column chromatography on silica gel to give (4S,5S)-tert-butyl 4-((S)-2-(acetoxy(1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-3-methylbutyl)-5-((2,2-dimethylhexanamido)methyl)-2,2-dimethyloxazolidine-3-carboxylate (25 mg, 73%). MS: 687 (M+1)

reactant | (4S,5S)-tert-butyl 5-((2,2-dimethylhexanamido)methyl)-4-((S)-2-(hydroxy(1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-3-methylbutyl)-2,2-dimethyloxazolidine-3-carboxylate | 0.05 mmol, 32 mg | CC(C(=O)NC[C@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)C[C@@H](C(C)C)C(C1=CC=C2C=NN(C2=C1)CCCOC)O)(CCCC)C | C36H60N4O6
reactant | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
reactant | Ac2O | 6 mL | CC(=O)OC(=O)C | C4H6O3
product | (4S,5S)-tert-butyl 4-((S)-2-(acetoxy(1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-3-methylbutyl)-5-((2,2-dimethylhexanamido)methyl)-2,2-dimethyloxazolidine-3-carboxylate | 25 mg, 73% | C(C)(=O)OC([C@@H](C[C@@H]1N(C(O[C@H]1CNC(C(CCCC)(C)C)=O)(C)C)C(=O)OC(C)(C)C)C(C)C)C1=CC=C2C=NN(C2=C1)CCCOC | C38H62N4O7
